US04479962
1-(Indazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)ethylamino]-propan-2-ol
6.2 g. 2-Benzyl-4-(2,3-epoxypropoxy)-indazole and 7.2 g. 2-(2,6-dimethylphenylamino)-ethylamine are stirred for 20 hours at 70° C. The reaction mixture is then dissolved in methylene chloride and purified chromatographically over a silica gel column using methylene chloride/methanol (saturated with ammonia) (20:1 v/v) as elution agent. After evaporation, the desired compound is obtained in the form of a viscous oil in a yield of 6.8 g. (69% of theory).

reactant | 2-Benzyl-4-(2,3-epoxypropoxy)-indazole | C(C1=CC=CC=C1)N1N=C2C=CC=C(C2=C1)OCC1CO1 | C17H16N2O2
reactant | 2-(2,6-dimethylphenylamino)-ethylamine | CC1=C(C(=CC=C1)C)NCCN | C10H16N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(Indazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)ethylamino]-propan-2-ol | N1N=CC2=C(C=CC=C12)OCC(CNCCNC1=C(C=CC=C1C)C)O | C20H26N4O2
